US06268389B1
73 g of N,N-dimethyl-2-methyl-3-nitroaniline are dissolved in 800 ml of methanol and hydrogenated at 20° C under 5 bar of hydrogen using Raney nickel as catalyst. 57 g of 3-dimethylamino-2-methylaniline are obtained.

reactant | N,N-dimethyl-2-methyl-3-nitroaniline | 73 g | CN(C1=C(C(=CC=C1)[N+](=O)[O-])C)C | C9H12N2O2
solvent | methanol | 800 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | 3-dimethylamino-2-methylaniline | 57 g | CN(C=1C(=C(N)C=CC1)C)C | C9H14N2
